US06495546B1
To a solution of 8-(N-benzyl-N-tert-butoxycarbonylamino)-6,7,8,9-tetrahydro-5H-benzocycloheptene-2-carboxylic acid methyl ester (10.07 g) in dichloromethane (100 ml) was added trifluoroacetic acid (9.47 ml), and the mixture was stirred at room temperature overnight. The mixture was evaporated in vacuo and partitioned between ethyl acetate and an aqueous sodium bicarbonate solution. The organic layer was separated, washed with water and brine, dried over magnesium sulfate and evaporated in vacuo. The residue was purified by column chromatography on silica gel eluting with a mixture of chloroform and methanol (20:1) to afford 8-benzylamino-6,7,8,9-tetrahydro-5H-benzocycloheptene-2-carboxylic acid methyl ester (7.78 g).

reactant | 8-(N-benzyl-N-tert-butoxycarbonylamino)-6,7,8,9-tetrahydro-5H-benzocycloheptene-2-carboxylic acid methyl ester | 10.07 g | COC(=O)C=1C=CC2=C(CC(CCC2)N(C(=O)OC(C)(C)C)CC2=CC=CC=C2)C1 | C25H31NO4
reactant | trifluoroacetic acid | 9.47 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 8-benzylamino-6,7,8,9-tetrahydro-5H-benzocycloheptene-2-carboxylic acid methyl ester | 7.78 g | COC(=O)C=1C=CC2=C(CC(CCC2)NCC2=CC=CC=C2)C1 | C20H23NO2
